US09278961B2
1 g of 4-(chlorosulfonyl)benzoic acid was reacted with 506 μL of piperidin-4-ol via Procedure H. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 114 mg of 4-(4-hydroxypiperidin-1-ylsulfonyl)benzoic acid via Procedure G and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-hydroxypiperidin-1-ylsulfonyl)benzamide. MS (Q1) 472.3 (M)+.

reactant | 4-(chlorosulfonyl)benzoic acid | 1 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(4-hydroxypiperidin-1-ylsulfonyl)benzoic acid | 114 mg | OC1CCN(CC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C12H15NO5S
solvent | piperidin-4-ol | 506 μL | N1CCC(CC1)O | C5H11NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(4-hydroxypiperidin-1-ylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1CCC(CC1)O)=O)C1=NC=CC=C1 | C23H22ClN3O4S
